US09255096B1
3-(8,9-dimethoxy-1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(3-isopropylphenyl)benzamide
To a mixture of 3-(8,9-dimethoxy-1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid hydrochloride (0.25 mmol, 100 mg) and N, N-diisopropylethylamine (0.75 mmol, 0.131 mL) in 2.0 mL DMF at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.325 mmol, 0.193 mL). After 5 min at rt, 3-isopropylaniline (0.375 mmol, 0.053 mL) and catalytic DMAP was added and the reactions continued for 2 hours. Then an additional 0.050 mL propylphosphonic anhydride solution and 0.025 mL 3-isopropylaniline was added and the reaction continued for 19 hours. The reaction was quenched into dilute aqueous Na2CO3 solution, extracted into EtOAc, the EtOAc layer washed with H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting oil was chromatographed eluting with CHCl3/EtOAc and then recrystallized from EtOAc/hexane to give the title compound as a white solid (20 mg, 17%).

reactant | 3-(8,9-dimethoxy-1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid hydrochloride | 0.25 mmol, 100 mg | Cl.COC=1C(=CC2=C(N=CC=3CN(CCC23)C=2C=C(C(=O)O)C=CC2)C1)OC
reactant | N, N-diisopropylethylamine | 0.75 mmol, 0.131 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propylphosphonic anhydride | 0.325 mmol, 0.193 mL | CCCP(=O)=O | C3H7O2P
reactant | 3-isopropylaniline | 0.375 mmol, 0.053 mL | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
reactant | propylphosphonic anhydride | 0.050 mL | CCCP(=O)=O | C3H7O2P
reactant | 3-isopropylaniline | 0.025 mL | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(8,9-dimethoxy-1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(3-isopropylphenyl)benzamide | 20 mg, 17% | COC=1C(=CC2=C(N=CC=3CN(CCC23)C=2C=C(C(=O)NC3=CC(=CC=C3)C(C)C)C=CC2)C1)OC | C30H31N3O3
